US06498172B1
7-((4-Butyl-benzyl)-(pyridine-3-sulfonyl)-amino)-heptanoic acid.
A solution of 7-((4-butyl-benzyl)-(pyridine-3-sulfonyl)-amino)-heptanoic acid methyl ester prepared of Example 1, Step B (0.040 g, 0.158 mmol), in 2 mL MeOH and 0.5 mL 2N NaOH was stirred at room temperature overnight. The mixture was quenched with 2N HCl and was diluted with CH2Cl2. The organic layer was washed with 1N HCl and water, dried over MgSO4, filtered and concentrated in vacuo. The product was purified by flash chromatography on silica gel (2% MeOH/CH2Cl2 to 5% MeOH/CH2Cl2) to afford the title compound (42 mg). 1H NMR (400 MHz, CDCl3) δ 9.09 (s, 1H), 8.77 (d, 1H), 8.08 (d, 1H), 7.48 (dd, 1H), 7.09 (m, 4H), 4.32 (s, 2H), 3.12 (s, 2H), 2.55 (t, 2H), 2.25 (t, 2H), 1.12-1.58 (m, 12H), 0.88 (t, 3H); MS 431 (M−1).

reactant | 7-((4-butyl-benzyl)-(pyridine-3-sulfonyl)-amino)-heptanoic acid methyl ester | COC(CCCCCCN(S(=O)(=O)C=1C=NC=CC1)CC1=CC=C(C=C1)CCCC)=O | C24H34N2O4S
reactant | NaOH | 2N, 0.5 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 7-((4-Butyl-benzyl)-(pyridine-3-sulfonyl)-amino)-heptanoic acid | 42 mg | C(CCC)C1=CC=C(CN(CCCCCCC(=O)O)S(=O)(=O)C=2C=NC=CC2)C=C1 | C23H32N2O4S
